US06797819B1
Chloro(4-methoxyphenyl)diisopropylsilane (5).
Diisopropyl(4-methoxyphenyl)silane (47.7 g, 214 mmol, 1.0 equiv.), was taken up in CH2Cl2 (700 mL). The solution was cooled to 0° C. and trichloroisocyanuric acid (16.6 g, 71.3 mmol, 0.33 equiv.) was carefully added in three equal portions, making sure that each portion has at least 7 min to react before the next is added (caution: adding trichloroisocyanuric acid too rapidly results in a rapid evolution of gas). The mixture was stirred at 0° C. for 40 min followed by warming to 23° C. with stirring. The solids were filtered under an inert atmosphere and the filtrate concentrated in vacuo to yield 54.8 g (98%) of a cloudy oil. The chlorosilane, which is unstable, was used immediately and without purification in the next step.

reactant | Diisopropyl(4-methoxyphenyl)silane | 214 mmol, 47.7 g, 1.0 equiv. | C(C)(C)[SiH](C1=CC=C(C=C1)OC)C(C)C | C13H22OSi
reactant | trichloroisocyanuric acid | 71.3 mmol, 16.6 g, 0.33 equiv. | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | chlorosilane | Cl[SiH3] | ClH3Si
solvent | CH2Cl2 | 700 mL | C(Cl)Cl | CH2Cl2
product | Chloro(4-methoxyphenyl)diisopropylsilane | Cl[Si](C(C)C)(C(C)C)C1=CC=C(C=C1)OC | C13H21ClOSi
